US20010025045A1
N-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-bromo-2,4-dimethoxybenzamide
Triethylamine (87μL, 0.62mmol) was added to a stirred suspension of N-(1,2,3,4-tetrahydroisoquinolin-5-yl)-5-bromo-2,4-dimethoxybenzamide trifluoroacetate from Reference Example 1 (315mg; 0.62mmol) in dichloromethane (10ml) at 0° C. Acetic anhydride (60μL; 1eq) was added and the mixture stirred at room temperature overnight. The mixture was washed with water, brine and dried followed by evaporation in vacuo. Recrystallisation of the residue from methanol gave the title compound as a white solid (201mg; 75%).

reactant | Triethylamine | 0.62mmol, 87μL | C(C)N(CC)CC | C6H15N
reactant | N-(1,2,3,4-tetrahydroisoquinolin-5-yl)-5-bromo-2,4-dimethoxybenzamide trifluoroacetate | FC(C(=O)O)(F)F.C1NCCC2=C(C=CC=C12)NC(C1=C(C=C(C(=C1)Br)OC)OC)=O
reactant | Acetic anhydride | 60μL, 1eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
product | N-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-bromo-2,4-dimethoxybenzamide | 201mg, 75% | C(C)(=O)N1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Br)OC)OC)=O | C20H21BrN2O4
